US07301023B2
(1-benzyl-4-methylpiperidin-3-yl)-methylamine bishydrochloride
To a solution of 23.4 kg of (1-benzyl-4-methylpiperidin-3-yl)-methylamine in 10 liters of toluene and 120 liters of ethanol at 3° C. was added 25 liters of 32% HCl in water, keeping the reaction temperature below 10° C. 100 liters of solvent was distilled off under partial vacuum, and 215 liters of ethyl acetate was added at 30° C. 210 liters of solvent was distilled off under partial vacuum, and a second 215 liters of ethyl acetate was added and another 210 liters of solvent was distilled off under partial vacuum. 111 liters of acetone was added at 35 C.°, the suspension was cooled to 0° C., and then the product, (1-benzyl-4-methylpiperidin-3-yl)-methylamine bishydrochloride, was filtered off and washed with 55 liters of acetone. The wet-cake was reslurried 3 times in ethanol (10 volume equivalents at reflux) to upgrade the diasteromeric ratio of cis:trans from 91:9 to greater than 97:3. Total recovery was 19.4 kg, 62% yield. 1H NMR (CD3OD, 400 MHz): 7.55 (m, 5H), 4.88 (s, 3H), 4.52 (d, J=12.8 Hz, 1H), 4.45 (d, J=12.8 Hz, 1H), 3.76 (m, 1H), 3.67 (m, 1H), 3.40-3.00 (m, 3H), 2.78 (3, 3H), 2.55 (m, 1H), 2.14 (m, 1H), 1.90 (m, 1H), 1.16 (d, J=7.2 Hz, 3H)

reactant | (1-benzyl-4-methylpiperidin-3-yl)-methylamine | 23.4 kg | C(C1=CC=CC=C1)N1CC(C(CC1)C)NC | C14H22N2
reactant | HCl | 25 liters | Cl | ClH
solvent | toluene | 10 liters | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 120 liters | C(C)O | C2H6O
solvent | water | O | H2O
product | (1-benzyl-4-methylpiperidin-3-yl)-methylamine bishydrochloride | 62% yield | Cl.Cl.C(C1=CC=CC=C1)N1CC(C(CC1)C)NC | InChI=1S/C14H22N2.2ClH/c1-12-8-9-16(11-14(12)15-2)10-13-6-4-3-5-7-13;;/h3-7,12,14-15H,8-11H2,1-2H3;2*1H
